US06919355B2
2-[4-(4-Fluorobenzyl)piperidin-1-carbonyl]-1,5-dihydro-8-oxa-1,5-diaza-cyclopenta[b]naphthalene-6-one (4570002193)
The title compound is prepared from 6-oxo-1,5,6,7-tetrahydro-8-oxa-1,5-diaza-cyclopenta[b]naphthalene-2-carboxylic acid and 4-(4-fluorobenzyl)piperidine according to the method described in Example 1/c. Mp.: 219-226° C. (diethyl ether).

reactant | 6-oxo-1,5,6,7-tetrahydro-8-oxa-1,5-diaza-cyclopenta[b]naphthalene-2-carboxylic acid | O=C1NC=2C=C3C(=CC2OC1)NC(=C3)C(=O)O | C11H8N2O4
reactant | 4-(4-fluorobenzyl)piperidine | FC1=CC=C(CC2CCNCC2)C=C1 | C12H16FN
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[4-(4-Fluorobenzyl)piperidin-1-carbonyl]-1,5-dihydro-8-oxa-1,5-diaza-cyclopenta[b]naphthalene-6-one | FC1=CC=C(CC2CCN(CC2)C(=O)C2=CC=3C(=CC=4OCC(NC4C3)=O)N2)C=C1 | C23H22FN3O3
